US08030504B2
8-Amino-1,2,3,4-tetrahydronaphthalen-2-ol
A hydrogenation reaction vessel was charged with 8-aminonaphthalen-2-ol (Aldrich, 5.0 g, 31.4 mmol), 50% w/w sodium hydroxide (0.2 g, 2.5 mmol) and Raney nickel (slurry in water, 40% weight load, 2.0 g) in ethanol (100 mL). The vessel was purged with hydrogen gas several times before sealing under a hydrogen atmosphere at a pressure of 1300 psi followed by heating to 85° C. After 6 hours the mixture was filtered, and the filtrate was concentrated under reduced pressure to afford the title compound. 1H NMR (500 MHz, DMSO-d6) δ ppm 1.44-1.68 (m, 1H), 1.79-1.94 (m, 1H), 2.20 (dd, J=16.48, 7.63 Hz, 1H), 2.56-2.85 (m, 3H), 3.85-3.99 (m, 1H), 4.63 (s, 2H), 4.75 (d, J=4.12 Hz, 1H), 6.30 (d, J=7.48 Hz, 1H), 6.44 (d, J=7.78 Hz, 1H), 6.78 (t, J=7.63 Hz, 1H). 13C NMR (126 MHz, DMSO-d6) δ ppm 27.35, 31.41, 33.36, 65.81, 111.35, 116.48, 119.13, 125.53, 136.00, 146.12. MS (DCI) m/z 164.06 (M+H)+.

reactant | 8-aminonaphthalen-2-ol | 31.4 mmol, 5.0 g | NC=1C=CC=C2C=CC(=CC12)O | C10H9NO
reactant | sodium hydroxide | 2.5 mmol, 0.2 g | [OH-].[Na+]
catalyst | Raney nickel | 2.0 g | [Ni] | Ni
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 8-Amino-1,2,3,4-tetrahydronaphthalen-2-ol | NC=1C=CC=C2CCC(CC12)O | C10H13NO
